US05093328
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-t-butyldimethylsilyloxypyrrolidine (42.23 g) in dry dichloromethane (422 ml), boron trifluoride etherate (103.54 g) was added at room temperature, and the resultant mixture was stirred at the same temperature for 4 hours. The reaction mixture was washed successively with aqueous sodium bicarbonate solution and water and dried over magnesium sulfate. Removal of the solvent gave (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-hydroxypyrrolidine.

reactant | (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-t-butyldimethylsilyloxypyrrolidine | 42.23 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)COC(C)=O | C21H33NO5Si
reactant | boron trifluoride etherate | 103.54 g | B(F)(F)F.CCOCC
solvent | dichloromethane | 422 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-benzyloxycarbonyl-2-acetoxymethyl-4-hydroxypyrrolidine | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)COC(C)=O | C15H19NO5
